US07223786B2
Part I: 2-Amino-3-(5-chloroindole-2-carbonylamino)naphthalene
A solution of 5-chloroindole-2-carboxylic acid (247 mg), 2,3-diaminonaphthalene (200 mg), 1-hydroxybenzotriazole hydrate (221 mg), 1-[3-dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (315 mg) and triethylamine (447 mg) in N,N-dimethylformamide was stirred under nitrogen at room temperature for 3 h. The reaction mixture was diluted with water before extraction with ethyl acetate (three times). The combined organic extracts were washed sequentially with saturated aqueous ammonium chloride solution, water and saturated aqueous sodium bicarbonate solution (three times each), dried over anhydrous magnesium sulfate and evaporated under vacuum to yield a solid. The solid was triturated with chloroform and then dried under vacuum to obtain the title compound as a tan solid (102 mg).

reactant | 5-chloroindole-2-carboxylic acid | 247 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 2,3-diaminonaphthalene | 200 mg | NC1=CC2=CC=CC=C2C=C1N | C10H10N2
reactant | 1-hydroxybenzotriazole hydrate | 221 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 315 mg | Cl.C(C)N=C=N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 447 mg | C(C)N(CC)CC | C6H15N
product | 2-Amino-3-(5-chloroindole-2-carbonylamino)naphthalene | 102 mg | NC1=CC2=CC=CC=C2C=C1NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C19H14ClN3O
